US04507241
To 0.64 g (4.71 mmoles) of ZnCl2 in 50 mL of THF was added 7.0 g (0.697 mmoles/g in THF, 4.88 mmoles) of dodecyl MgBr. This mixture was added dropwise to 1.00 g (4.67 mmoles) of 2,3-dimethoxy-1,4-naphthoquinone in 50 mL of THF. The mixture was stirred overnight and worked up as in Example 30. Thus, 0.223 g (0.626 mmoles, 13.4%) of 2-methoxy-3-dodecyl-1,4-naphthoquinone was obtained, mp: 61° to 63° C. 1H NMR (δ, CDCl3): 8.05 (m,2H), 7.65 (m,2H), 4.10 (s,3H), 2.55 (m,2H), 1.30 (br s,20H), 0.85 (m,3H). IR (cm-1, KBr): 2950w, 2918s, 2842m, 1666s, 1642m, 1608m, 1589m, 1571w, 1462m, 1338m, 1329m, 1261m, 1255w, 1209m.

reactant | 2,3-dimethoxy-1,4-naphthoquinone | 4.67 mmoles, 1.00 g | COC=1C(C2=CC=CC=C2C(C1OC)=O)=O | C12H10O4
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 4.71 mmoles, 0.64 g | [Cl-].[Cl-].[Zn+2]
product | 2-methoxy-3-dodecyl-1,4-naphthoquinone | 0.626 mmoles, 0.223 g, 13.4% | COC=1C(C2=CC=CC=C2C(C1CCCCCCCCCCCC)=O)=O | C23H32O3
